US08609688B2
4-(3-Bromophenyl)thiomorpholine 1,1-dioxide
A mixture of 1,3-dibromobenzene (242 μL, 2.00 mmol), thiomorpholine 1,1-dioxide (270 mg, 2.00 mmol), Pd2(dba)3 (45.8 mg, 0.0500 mmol), rac-BINAP (96.3 mg, 0.150 mmol) and NaOtBu (231 mg, 2.40 mmol) in toluene was heated at 80° C. for 11 hours under nitrogen. After cooling to room temperature, the mixture was diluted with DCM and filtered through a Celite pad. The combined filtrate and washings were concentrated. The residue was purified by silica gel column chromatography (EtOAc/hexane=90:10→80:20→75:25) to afford desired product (281 mg, 48.4%) as pale yellow solid.

reactant | 1,3-dibromobenzene | 2.00 mmol, 242 μL | BrC1=CC(=CC=C1)Br | C6H4Br2
reactant | thiomorpholine 1,1-dioxide | 2.00 mmol, 270 mg | N1CCS(CC1)(=O)=O | C4H9NO2S
reactant | rac-BINAP | 0.150 mmol, 96.3 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaOtBu | 2.40 mmol, 231 mg | CC(C)(C)[O-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | Pd2(dba)3 | 0.0500 mmol, 45.8 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(3-Bromophenyl)thiomorpholine 1,1-dioxide | 281 mg, 48.4% | BrC=1C=C(C=CC1)N1CCS(CC1)(=O)=O | C10H12BrNO2S
